Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Penicillins / Benadryl
 
Attending: ___
 
___ Complaint:
Erectile dysfunction
 
Major Surgical or Invasive Procedure:
Insertion of penile prosthesis, Dr. ___, ___.

 
History of Present Illness:
___ y/o M with ED ___ atherosclerosis, medications; presents for 
insertion of penile prosthesis

 
Past Medical History:
PMH:
Dyslipidemia
claudication 
Heart murmur 
Hypertension
Ischemic Heart Disease
h/o anteroseptal MI, second MI ___,
PTCA/stent, complicated by stroke - 
CardioVascular (Stroke (6), first ___
- most recent ___ yrs ago - some mild residual
cognitive/memory impairment and r sided
hemiparesis exacerbated by fatigue; 
Peripheral Vascular/Arterial Disease
Diabetes, Type I

PSH:
fem/pop bypass R leg ___ angioplasty
Stent (___),

 
Social History:
Tobacco use Never, Alcohol social
 
Brief Hospital Course:
The patient was admitted to Dr. ___ service for 
insertion of penile prosthesis. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
He patient received vancomycin ___ for antibiotic 
prophylaxis. Post-op course also uncomplicated. Patient voided 
without difficulty.  At discharge, patient's pain well 
controlled with oral pain medications, tolerating regular diet, 
ambulating without assistance, and voiding without difficulty. 
Incision at discharge without erythema or hematoma. Specific 
instructions about prosthesis care given, and also included in 
this discharge summary.
 
Medications on Admission:
Aspirin (325 mg daily d/c ___ -
to bridge to lovenox)
Atorvastatin (80 mg daily)
Diltiazem  (120 mg daily)
Folic acid ((1 mg daily)
Insulin (Humulin, Novolin, Lente Iletin,
Semilente Iletin, Velosulin, Ultralente
(Lantus 40 mg daily hs; Humalog SS tid)
Lisinopril (20 mg daily)
Metoprolol tartrate  (25
mg bid)
Plavix ((75 mg daily d/c ___, to bridge
to lovenox per cardiologist)
Other (Vit B12, MVI, minocycline 50 mg bid

 
Discharge Medications:
1. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
2. Diltiazem HCl 120 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
3. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
4. Insulin Lispro 100 unit/mL Cartridge Sig: One (1) unit 
Subcutaneous three times a day: Sliding scale.  
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain: Do not exceed 4 grams 
(4000 mg) of tylenol per day.
Disp:*75 Tablet(s)* Refills:*0*
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
7. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime) for 7 days: 
Continue for ___isp:*7 Capsule, Sust. Release 24 hr(s)* Refills:*0*
8. Lovenox  Subcutaneous

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Erectile dysfunction status post insertion of penile prosthesis

 
Discharge Condition:
Stable

 
Discharge Instructions:
-Restart lovenox injections the day of discharge.

-Call Dr. ___ office in 1 week to determine when to restart 
Aspirin and Plavix and to schedule your follow up visit. 
(___)

-Take flomax for 1 week as prescribed.

-Do not pull down on implanted bulbs in scrotum.
 
-Take off dressing over penis tomorrow, no further wound care is 
needed.
 
-Do not use prosthesis for 6 weeks.

-Complete a 7 day course of ciprofloxacin (antibiotic).
 
-You may shower, but do not bathe, swim or otherwise immerse 
your incision.
 
-Do not lift anything heavier than a phone book.

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen).

-Do not drive or drink alcohol while taking narcotics.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.

-Resume all of your home medications, except hold NSAID 
(aspirin,  and ibuprofen containing products such as advil & 
motrin,) until you see your urologist in follow-up.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.

 
Followup Instructions:
___